US06448236B1
(2S,3S,4R,5R)5-(6-[(2,2-Diphenylethyl)amino]-2-{[(methylsulfonyl)amino]methyl}-9H-purin-9-yl)-N-ethyl-3,4-dihydroxytetrahydro-2-furancarboxamide
A solution of (3aS,4S,6R,6aR)-6-{2-(aminomethyl)-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-N-ethyl-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxole-4-carboxamide (Preparation 10) (140 mg, 0.25 mmol) and triethylamine (0.05 ml, 0.36 mmol) in anhydrous dichloromethane (1 ml) was treated with a solution of methanesulfonyl chloride (32 mg, 0.28 mmol) in anhydrous dichloromethane (1 ml). The mixture was stirred at room temperature for 18 hours during which time the solvent was allowed to evaporate off freely. The residue was dissolved in ethanol (1 ml), treated with hydrochloric acid (1M, 1 ml) and heated at 60° C. for 4 hours. The solvent was removed under reduced pressure and the residue was azeotroped with ethanol (×2). The residue was then purified by column chromatography on silica gel eluting with a gradient system of dichloromethane:methanol (95:5 by volume) gradually changing to dichloromethane:methanol (90:10 by volume) to give a solid which was triturated with diethyl ether, washed with pentane and dried to afford the title compound as a solid (80 mg).

reactant | (3aS,4S,6R,6aR)-6-{2-(aminomethyl)-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-N-ethyl-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxole-4-carboxamide | 0.25 mmol, 140 mg | NCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)C(=O)NCC)NCC(C2=CC=CC=C2)C2=CC=CC=C2 | C30H35N7O4
reactant | triethylamine | 0.36 mmol, 0.05 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.28 mmol, 32 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | (2S,3S,4R,5R)5-(6-[(2,2-Diphenylethyl)amino]-2-{[(methylsulfonyl)amino]methyl}-9H-purin-9-yl)-N-ethyl-3,4-dihydroxytetrahydro-2-furancarboxamide | 80 mg | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)CNS(=O)(=O)C)[C@H]1[C@@H]([C@@H]([C@H](O1)C(=O)NCC)O)O)C1=CC=CC=C1 | C28H33N7O6S
